data/pmechdb/original/mc_train_fold0/raw/train.txt
[B-]([O+:21]=[C:20](C)C)(F)(F)F.[OH2:10]>>[B-]([O:21][C:20](C)(C)[OH2+:10])(F)(F)F 10=20;20,21=21
CC(C)(C)[Cl:10].[Al:20](Cl)(Cl)Cl>>CC(C)(C)[Cl+:10][Al-:20](Cl)(Cl)Cl 10=20,
COC1=CC=C(C=C1)[CH2:20][Br:21].C1=CC=C(C=C1)C[NH2:10]>>COC1=CC=C(C=C1)[CH2:20][NH2+:10]CC2=CC=CC=C2.[Br-:21] 10=20;20,21=21
C[C:20]1(CC[C:11](=[CH:10]1)[O-:12])[OH:21]>>C[C:20]1=[CH:10][C:11](=[O:12])CC1.[OH-:21] 10,11=10,20;20,21=21;12=11
CC(=O)C1=CC2=C([CH:10]=[CH:11]C=C2)C=C1.[Br:20][Br:21]>>CC(=O)C1=CC2=C(C=C1)[CH:10]([CH+:11]C=C2)[Br:20].[Br-:21] 10,11=10,20;20,21=21
[H:20][OH:21].COC1=C2C3=C(CC4C5(C3(CCN4)C(O2)C(CC5)([NH2+]N)[O-:10])O)C=C1.C(COCCO)O>>[H:20][O:10]C1(CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3)O)[NH2+]N.[OH-:21].C(COCCO)O 10=20;20,21=21
CC(C)NC(=[NH+]C(C)C)O[C:20](=[O:21])CNC(=O)OC(C)(C)C.CN(C)C1=CC=[N:10]C=C1.CCC1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC=CC5=C4)O.CC(C)(C)OC(=O)NCC(=O)[O-]>>CC(C)NC(=[NH+]C(C)C)O[C:20](CNC(=O)OC(C)(C)C)([N+:10]1=CC=C(C=C1)N(C)C)[O-:21].CCC1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC=CC5=C4)O.CC(C)(C)OC(=O)NCC(=O)[O-] 10=20;20,21=21
[H:20][N+:21]1=C2CCCCCN2CCC1.CC1=CC=C(C=C1)S(=O)(=O)[N-:10]N=NC(C2=CC=CC=C2)C(=O)OCC=C>>[H:20][N:10](N=NC(C1=CC=CC=C1)C(=O)OCC=C)S(=O)(=O)C2=CC=C(C=C2)C.C1CCC2=[N:21]CCCN2CC1 10=20;20,21=21
CC(C)[C+:20]1CCCC1.[Br-:10]>>CC(C)[C:20]1(CCCC1)[Br:10] 10=20,
C[C:20](=[OH+:21])[O:10][I:11]1(C2=C(C=CC=C2)C(=O)O1)(OC(=O)C)OC(=O)C>>C[C:20](=[O:10])[OH:21].CC(=O)O[I+:11]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C 10,11=10,20;20,21=21
[H:20][O:21]C(=O)C1=CC=CC=C1.CCOC(=O)[N-:10]N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][N:10](C(=O)OCC)N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)C(=O)[O-:21] 10=20;20,21=21
[H:20][Br:21].CCC1(C([O:10]1)C)C>>[H:20][O+:10]1C(C1(C)CC)C.[Br-:21] 10=20;20,21=21
[H:20][C:21]1(C(NC(=O)[N+:23](=[C:22]1C2=CC=CC=C2)C)C3=CC=CC=C3)C(=O)OC.[OH2:10]>>[H:20][OH2+:10].C[N:23]1[C:22](=[C:21](C(NC1=O)C2=CC=CC=C2)C(=O)OC)C3=CC=CC=C3 10=20;20,21=21,22;22,23=23
COC(=O)C1=CC=C(C=C1)C[O-:10].C1=CC=C(C=C1)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)Br.C(Br)(Br)Br>>COC(=O)C1=CC=C(C=C1)C[O:10][P:20](C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)Br.C(Br)(Br)Br 10=20,
CCC1CC[CH:20]=[CH:21]C1=O.CC[S-:10]>>CCC1CC[CH:20]([CH-:21]C1=O)[S:10]CC 10=20;20,21=21
C[C:11](C)(C)[O:10][C:20](=[OH+:21])NCCN1C(=CC(=N1)C2=CC=CC=C2)C(=O)CC3CCCCC3.C(=O)(C(F)(F)F)[O-]>>C[C+:11](C)C.C1CCC(CC1)CC(=O)C2=CC(=NN2CCN[C:20](=[O:10])[OH:21])C3=CC=CC=C3.C(=O)(C(F)(F)F)[O-] 10,11=10,20;20,21=21
C1CC[NH:10]CC1.C1=CC=C(C=C1)C(=O)[CH2:20][Br:21]>>C1CC[NH+:10](CC1)[CH2:20]C(=O)C2=CC=CC=C2.[Br-:21] 10=20;20,21=21
[H:20][O:21]C(CC)CC.[H:10][Na:11]>>CCC(CC)[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
[H:20][OH2+:21].C[SH:10]>>[H:20][SH+:10]C.[OH2:21] 10=20;20,21=21
CC(=O)O[C:11]([N:10]1C2=C(C=CC=C2)[N+:21](=[N:20]1)[O-])(N(C)C)[N:12](C)C.[B-](F)(F)(F)F>>CC(=O)O[C:11](=[N+:12](C)C)N(C)C.C1=CC2=C(C=C1)[N:21]([N:20]=[N:10]2)[O-].[B-](F)(F)(F)F 10,11=10,20;20,21=21;12=11
CCOC(=O)C(C1=CC=CC=C1)NC(=O)CC(=NO[S:20](=O)(C)([O-:10])[Cl:21])N.C1=CC=[NH+]C=C1>>CCOC(=O)C(C1=CC=CC=C1)NC(=O)CC(=NO[S:20](=O)(=[O:10])C)N.[Cl-:21].C1=CC=[NH+]C=C1 10=20;20,21=21
[H:20][NH+:21](C1=CC=C(C=C1)C)C(C2=COC3=C(C2=O)C=CC=C3)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.CC1=CC=C(C=C1)[NH:21]C(C2=COC3=C(C2=O)C=CC=C3)O 10=20;20,21=21
[H:20][NH:21]C(=O)C=C.C[C:11](=[CH2:10])[O-:12]>>[H:20][CH2:10][C:11](=[O:12])C.C=CC(=O)[NH-:21] 10,11=10,20;20,21=21;12=11
[H:20][OH:21].CC1CCCCC1[O-:10].B1(C2CCCC1CCC2)O>>[H:20][O:10]C1CCCCC1C.[OH-:21].B1(C2CCCC1CCC2)O 10=20;20,21=21
[H:20][OH+:21]C1(CCC(CC1)C2=CC=C(C=C2)C)OCCO.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C>>[H:20][OH2+:10].CC1=CC=C(C=C1)C2CCC(CC2)([OH:21])OCCO.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C 10=20;20,21=21
[H:20][S+:21](CC)C(C=C)(O)OC(=O)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[S:21]C(C=C)(O)OC(=O)C 10=20;20,21=21
C[N+:21](=[CH:20]N)C.C[OH:10].[Cl-]>>C[N:21](C)[CH:20](N)[OH+:10]C.[Cl-] 10=20;20,21=21
CC(=O)O[C:20](=[O:21])CCC=O.C[O-:10]>>CC(=O)O[C:20](CCC=O)([O-:21])[O:10]C 10=20;20,21=21
[H:20][C:21]12[CH+:22]C=C(C=C1CCNC2(CC3=CC(=C(C=C3)OC)O)Cl)OC.COC1=CC(=CC=C1)CCNC(=[O:10])CC2=CC(=C(C=C2)OC)O.[O-]P(=O)(Cl)Cl>>[H:20][O+:10]=C(CC1=CC(=C(C=C1)OC)O)NCCC2=CC=CC(=C2)OC.COC1=C(C=C(C=C1)CC2([C:21]3=[CH:22]C=C(C=C3CCN2)OC)Cl)O.[O-]P(=O)(Cl)Cl 10=20;20,21=21,22
[H:20][OH+:21]C(C)C(CC)Br.[OH2:10]>>[H:20][OH2+:10].CCC(C(C)[OH:21])Br 10=20;20,21=21
C[Si](C)(C)C1[CH+:20]CCC1O.C1=CC(=CC(=C1)C(=O)[O-:10])Cl>>C[Si](C)(C)C1C(CC[CH:20]1[O:10]C(=O)C2=CC=CC(=C2)Cl)O 10=20,
C1=CC=C(C=C1)CO[C:20](=[O:21])Cl.[NH3:10]>>C1=CC=C(C=C1)CO[C:20]([NH3+:10])([O-:21])Cl 10=20;20,21=21
